US08466186B2
(g) N-(4-Chloro-2-fluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide
The title compound is prepared from N-(3-amino-4-chloro-2-fluoro-benzyl)-2,2-dimethyl-propionamide, 1,1′-thiocarbonyldi-2-pyridone in analogy to step 5f.

reactant | N-(3-amino-4-chloro-2-fluoro-benzyl)-2,2-dimethyl-propionamide | NC=1C(=C(CNC(C(C)(C)C)=O)C=CC1Cl)F | C12H16ClFN2O
reactant | 1,1′-thiocarbonyldi-2-pyridone | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
product | N-(4-Chloro-2-fluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | ClC1=C(C(=C(CNC(C(C)(C)C)=O)C=C1)F)N=C=S | C13H14ClFN2OS
